US04695572
5-Chloro-3-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)carbonylmethyl-2-(4-methoxyphenyl)isoindolin-1-one
With ice-cooling and stirring, 1.57 g of 1,4-dioxa-8-azaspiro[4.5]decane, 2.3 ml of triethylamine and 2.12 g of diethyl phosphorocyanidate were successively added to a solution of 3.32 g of 6-chloro-2-(4-methoxyphenyl)-3-oxoisoindoline-1-acetic acid in 30 ml of dimethylformamide. The mixture was stirred with ice-cooling for an hour. To the reaction mixture was added 150 ml of ice water and the mixture was allowed to stand to give a crystalline precipitate, which was collected by filtration, washed with water and dried. Recrystallization from ether gave 4.13 g of colorless crystals melting at 156°-157° C.

reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 1.57 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl phosphorocyanidate | 2.12 g | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | 6-chloro-2-(4-methoxyphenyl)-3-oxoisoindoline-1-acetic acid | 3.32 g | ClC1=CC=C2C(N(C(C2=C1)CC(=O)O)C1=CC=C(C=C1)OC)=O | C17H14ClNO4
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-Chloro-3-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)carbonylmethyl-2-(4-methoxyphenyl)isoindolin-1-one | 4.13 g | ClC=1C=C2C(N(C(C2=CC1)=O)C1=CC=C(C=C1)OC)CC(=O)N1CCC2(OCCO2)CC1 | C24H25ClN2O5
